US08980913B2
Step 5: (R)-5-(2-Amino-1-hydroxyethyl)-8-hydroxyquinolin-2(1H)-one hydrochloride
To a solution of (R)-5-(2-azido-1-((tert-butyldimethylsilyl)oxy)ethyl)-8-(benzyloxy)quinolin-2(1H)-one (4.50 g, 10.0 mmol) in ethanol (50 mL) was added 10% palladium on charcoal (4.50 g) followed by 1-methyl-1,4-cyclohexadiene (11.0 mL, 97.9 mmol). The reaction was warmed to 60° C. (CARE—POSSIBLE EXOTHERM) and then stirred at 60° C. for 2 hours. The reaction mixture was allowed to cool and filtered through a pad of celite. The filter cake was washed with further ethanol and the filtrate was evaporated at reduced pressure. The residue was evaporated from iso-propanol (×2) and dissolved in iso-propanol (30 mL). HCl-dioxane (4 M, 50 mL, 200 mmol) was added and the reaction mixture stirred at RT for 18 hours. The resultant suspension was filtered, the filter cake washed with ether and the solid dried under vacuum in the presence of P2O5 to afford the title compound (1.65 g, 62%).

reactant | (R)-5-(2-azido-1-((tert-butyldimethylsilyl)oxy)ethyl)-8-(benzyloxy)quinolin-2(1H)-one | 10.0 mmol, 4.50 g | N(=[N+]=[N-])C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C24H30N4O3Si
reactant | 1-methyl-1,4-cyclohexadiene | 97.9 mmol, 11.0 mL | CC1=CCC=CC1 | C7H10
reactant | HCl dioxane | 200 mmol, 4 M, 50 mL | Cl.O1CCOCC1
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 4.50 g | [Pd] | Pd
product | (R)-5-(2-Amino-1-hydroxyethyl)-8-hydroxyquinolin-2(1H)-one hydrochloride | 1.65 g, 62% | Cl.NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C11H12N2O3.ClH/c12-5-9(15)6-1-3-8(14)11-7(6)2-4-10(16)13-11;/h1-4,9,14-15H,5,12H2,(H,13,16);1H/t9-;/m0./s1
